US04243408
Example 4--Preparation of 3-(2,6-dimethylphenylaminomethyl)-5-methyl-1,2,4-triazole
To a stirred solution of 8.8 g (0.022 mol) sodium hydroxide in 500 ml methanol was added 20 g (0.22 mol) acetamidine hydrochloride. After stirring for an additional 1/4 hour, 37.7 g (0.2 mol) alpha-(2,6-dimethylphenylamino)acethydrazide was added. The reaction mixture was heated under reflux for about 18 hours, cooled and filtered. The filtrate was evaporated under a reduced pressure to give a solid residue. The residue was diluted with dichloromethane, filtered, dried over magnesium sulfate and evaporated under reduced pressure to give a solid residue, which was triturated with ethyl ether/petroleum ether and dried to give 34.3 g of the product, m.p. 125°-126° C. The product is tabulated in Table I as Compound No. 2-A.

reactant | sodium hydroxide | 0.022 mol, 8.8 g | [OH-].[Na+]
reactant | acetamidine hydrochloride | 0.22 mol, 20 g | Cl.C(C)(=N)N
reactant | alpha-(2,6-dimethylphenylamino)acethydrazide | 0.2 mol, 37.7 g | CC1=C(C(=CC=C1)C)NCC(=O)NN | C10H15N3O
solvent | methanol | 500 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2,6-dimethylphenylaminomethyl)-5-methyl-1,2,4-triazole | 34.3 g | CC1=C(C(=CC=C1)C)NCC1=NNC(=N1)C | C12H16N4
